US07101903B2
Ethyl 5-bromo-1-(4-methylbenzyl)-1H-indole-2-carboxylate
NaH (60%, 3.88 g, 96.98 mmol) was added portionwise to a stirring solution of ethyl 5-bromo-1H-indole-2-Carboxylate (20.0 g, 74.6 mmol) in DMF (140 mL) at 0° C. under a nitrogen atmosphere over a period of 10 min. The mixture was then warmed to room temperature. After the reaction mixture was stirred at room temperature for one hour, 4-methylbenzyl bromide (14.2 g, 74.6 mmol) was added and the mixture was stirred at room temperature overnight. The reaction was quenched with aqueous ammonium chloride and diluted with water. The aqueous mixture was extracted with ethyl acetate. The organic extract was washed with water and brine, dried over anhydrous magnesium sulfate. This mixture was concentrated to give a semi-solid contained 0.8 mole equivalent DMF. Mass spectrum (ESI, [M+H]+) m/z 372. 1H NMR (400 MHz, DMSO-d6) δ 7.93 (d, 1H, J=7.94 Hz), 7.55 (d, 1H, J=9.01 Hz), 7.40 (dd, 1H, J=8.85 and 1.98 Hz), 7.32 (s, 1H), 7.04 (d, 2H, J=7.96 Hz), 6.90 (d, 2H, J=7.94 Hz), 5.79 (s, 2H), 4.28 (q, 2H), 2.20 (s, 3H), and 1.28 ppm (t, 3H).

reactant | NaH | 96.98 mmol, 3.88 g | [H-].[Na+]
reactant | ethyl 5-bromo-1H-indole-2-Carboxylate | 74.6 mmol, 20.0 g | BrC=1C=C2C=C(NC2=CC1)C(=O)OCC | C11H10BrNO2
reactant | 4-methylbenzyl bromide | 74.6 mmol, 14.2 g | CC1=CC=C(CBr)C=C1 | C8H9Br
solvent | DMF | 140 mL | CN(C)C=O | C3H7NO
solvent | DMF | 0.8 mole | CN(C)C=O | C3H7NO
product | Ethyl 5-bromo-1-(4-methylbenzyl)-1H-indole-2-carboxylate | BrC=1C=C2C=C(N(C2=CC1)CC1=CC=C(C=C1)C)C(=O)OCC | C19H18BrNO2
